US06255285B1
To a solution of 132 mg (0.183 mmol) of N-[2-benzoxycarbonylamino-1-[(3-tert-butyl-4-hydroxyphenyl)methyl]ethyl]-2-[[2-(benzoxycarbonylamino)-3-phenylpropyl]amino]-3-methyl butanamide in methanol (2 ml), 10% palladium carbon (80 mg) was added and the mixture was stirred in a hydrogen atmosphere at room temperature for 2 days. After filtering, the filtrate was concentrated under reduced pressure and the resulting residue was subjected to silica gel column chromatography (eluting solvent consisting of chloroform, methanol and aqueous ammonia at a ratio of 10:1:0.1) to yield 2-[(2-amino-3-phenylpropyl)amino]-N-[2-amino-1-[(3-tert-butyl-4-hydroxyphenyl)methyl]ethyl]-3-methyl butanamide in the amount of 24.2 mg (29%).

reactant | N-[2-benzoxycarbonylamino-1-[(3-tert-butyl-4-hydroxyphenyl)methyl]ethyl]-2-[[2-(benzoxycarbonylamino)-3-phenylpropyl]amino]-3-methyl butanamide | 0.183 mmol, 132 mg | C(C1=CC=CC=C1)OC(=O)NCC(CC1=CC(=C(C=C1)O)C(C)(C)C)NC(C(C(C)C)NCC(CC1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1)=O | C43H54N4O6
reactant | hydrogen | [H][H] | H2
solvent | methanol | 2 ml | CO | CH4O
catalyst | palladium carbon | 80 mg | [C].[Pd]
product | 2-[(2-amino-3-phenylpropyl)amino]-N-[2-amino-1-[(3-tert-butyl-4-hydroxyphenyl)methyl]ethyl]-3-methyl butanamide | NC(CNC(C(=O)NC(CN)CC1=CC(=C(C=C1)O)C(C)(C)C)C(C)C)CC1=CC=CC=C1 | C27H42N4O2
